US08557984B2
Intermediate 16: 4-chloro-7-(3,5-dimethyl-4-isoxazolyl)-3-nitroquinoline
A suspension of 7-(3,5-dimethyl-4-isoxazolyl)-3-nitro-4-quinolinol (for a preparation see intermediate 15, 5 g, 17 mmol) in POCl3 (50 ml) was refluxed overnight. After cooling the solvent was evaporated in vacuo. The resulting residue was poured over saturated aqueous Sodium hydrogen carbonate, extracted with DCM, washed with water, dried over Na2SO4. The solvent was evaporated under reduce pressure to give the title compound as a light brown solid (4 g, 75%). 1H NMR (300 MHz, CDCl3, ppm) δ: 9.23 (s, 1H), 8.45 (d, J=8.9 Hz, 1H), 8.04 (d, J=1.5 Hz, 1H), 7.67 (dd, J=8.9, 1.5 Hz, 1H), 2.47 (s, 3H), 2.32 (s, 3H).

reactant | 7-(3,5-dimethyl-4-isoxazolyl)-3-nitro-4-quinolinol | CC1=NOC(=C1C1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])O)C | C14H11N3O4
reactant | POCl3 | 50 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-7-(3,5-dimethyl-4-isoxazolyl)-3-nitroquinoline | 4 g, 75% | ClC1=C(C=NC2=CC(=CC=C12)C=1C(=NOC1C)C)[N+](=O)[O-] | C14H10ClN3O3
